US05495024
Using (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (1.17 g) and 1H-1,2,4-triazole (404 mg), (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(1H-1,2,4-triazol-1-yl)ethyl]oxirane (830 mg) was obtained by the same way as in Reference Example 2.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.17 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1H-1,2,4-triazole | 404 mg | N1N=CN=C1 | C2H3N3
product | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(1H-1,2,4-triazol-1-yl)ethyl]oxirane | 830 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1N=CN=C1 | C12H11F2N3O
